US05274100
321 g of 5-chloro-2-aminopyridine are added dropwise to 1.25 l of concentrated sulfuric acid. The reaction mixture is then stirred until the educt has completely dissolved. Then 172.5 g of sodium nitrite, dissolved in 240 ml of water, are added at a temperature of 40°-45° C. and the reaction mixture is stirred for 15 minutes. Subsequently 125 ml of 100% nitric acid are added dropwise at 50° C. over 40 minutes. The reaction mixture is kept for 1 hour at 55° C. and then poured onto 5 kg of ice-water. The product in the form of a yellow precipitate is isolated by filtration, washed copiously with water and subsequently dried at 60° C., giving 351 g of 5-chloro-2-hydroxy-3-nitropyridine (80.5% of theory) with a melting point of 229°-231° C.

reactant | 5-chloro-2-aminopyridine | 321 g | ClC=1C=CC(=NC1)N | C5H5ClN2
reactant | sulfuric acid | 1.25 l | S(O)(O)(=O)=O | H2O4S
reactant | sodium nitrite | 172.5 g | N(=O)[O-].[Na+]
reactant | nitric acid | 125 ml | [N+](=O)(O)[O-] | HNO3
solvent | water | 240 ml | O | H2O
product | 5-chloro-2-hydroxy-3-nitropyridine | 351 g, 80.5% | ClC=1C=C(C(=NC1)O)[N+](=O)[O-] | C5H3ClN2O3
